US08664233B2
150 mg (0.42 mmol) 7-bromo-2-chloro-4-ethoxy-9-methoxy-5H-pyrimido[5,4-b]indole and 181 mg (2.1 mmol) piperazine were refluxed in 10 ml dioxan for 60 h. Then, the solvent was removed and the residue was suspended in water and sucked off. 130 mg (76%) 7-bromo-4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole was obtained. ESI-MS [m/z]: 406, 408 [M+H]+

reactant | 7-bromo-2-chloro-4-ethoxy-9-methoxy-5H-pyrimido[5,4-b]indole | 0.42 mmol, 150 mg | BrC=1C=C(C=2C3=C(NC2C1)C(=NC(=N3)Cl)OCC)OC | C13H11BrClN3O2
reactant | piperazine | 2.1 mmol, 181 mg | N1CCNCC1 | C4H10N2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 7-bromo-4-ethoxy-9-methoxy-2-(piperazin-1-yl)-5H-pyrimido[5,4-b]indole | 130 mg, 76% | BrC=1C=C(C=2C3=C(NC2C1)C(=NC(=N3)N3CCNCC3)OCC)OC | C17H20BrN5O2
